US05013853
A mixture of 327 mg of 2,2,3-trimethyl-4-(1,6-dihydro-6-oxo-3-pyridazinyl-oxy)-6-cyano-chroman-3-ol, 20 ml of acetone, 400 mg of K2CO3 and 0.2 ml of dimethyl sulfate is refluxed for 2 hours. The mixture is filtered, concentrated and chromatographed on silica gel. There is obtained with ethyl acetate/methanol (9:1) 2,2,3-trimethyl-4-(1,6-dihydro-1-methyl-6-oxo-3-pyridazinyl-oxy)-6-cyano-chroman-3-ol, m.p. 197°-199°.

reactant | 2,2,3-trimethyl-4-(1,6-dihydro-6-oxo-3-pyridazinyl-oxy)-6-cyano-chroman-3-ol | 327 mg | CC1(OC2=CC=C(C=C2C(C1(O)C)OC1=NNC(C=C1)=O)C#N)C | C17H17N3O4
reactant | K2CO3 | 400 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl sulfate | 0.2 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2,2,3-trimethyl-4-(1,6-dihydro-1-methyl-6-oxo-3-pyridazinyl-oxy)-6-cyano-chroman-3-ol | CC1(OC2=CC=C(C=C2C(C1(O)C)OC1=NN(C(C=C1)=O)C)C#N)C | C18H19N3O4
